datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O/N=C/c1ccc([O:21][H:20])cc1O.O=C1CSc2ncnc(N3CCOCC3)c2[N-:10]1>>O/N=C/c1ccc([O-:21])cc1O.O=C1CSc2ncnc(N3CCOCC3)c2[N:10]1[H:20] 10=20;20,21=21",
"CCCCCCCCCC[NH+:21](CCC(=O)[O-])[H:20].Nc1ncnc2cn[n-:10]c12>>CCCCCCCCCC[NH:21]CCC(=O)[O-].Nc1ncnc2cn[n:10]([H:20])c12 10=20;20,21=21",
"CCCC[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC=CC([N+](=O)[O-])=C1)[H:20]>>CCCC[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"Clc1ccc([O:21][H:20])c(C[NH+]2CCCCC2)c1.O=C([O-])[C@@H](P)CC[C@H](P)C(=O)[O-:10]>>Clc1ccc([O-:21])c(C[NH+]2CCCCC2)c1.O=C([O-])[C@@H](P)CC[C@H](P)C(=O)[O:10][H:20] 10=20;20,21=21",
"CC/C(C)=C/C(=O)[O-:10].O=[N+]([O-])c1ccc([N:21](S(=O)(=O)c2ccccc2)[H:20])cc1>>CC/C(C)=C/C(=O)[O:10][H:20].O=[N+]([O-])c1ccc([N-:21]S(=O)(=O)c2ccccc2)cc1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc2nc3cc([O-:10])ccc3nc2c1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc2nc3cc([O:10][H:20])ccc3nc2c1 10=20;20,21=21",
"O=C(C1CCc2ccccc2O1)[O:21][H:20].Oc1cccc2c1Cc1cc([NH2:10])ccc1-2>>O=C(C1CCc2ccccc2O1)[O-:21].Oc1cccc2c1Cc1cc([NH2+:10][H:20])ccc1-2 10=20;20,21=21",
"CSCC(=O)[O:21][H:20].OC[C@@H]1O[C@H]([n+]2ccc(NO)nc2[O-:10])[C@@H](O)[C@H]1O>>CSCC(=O)[O-:21].OC[C@@H]1O[C@H]([n+]2ccc(NO)nc2[O:10][H:20])[C@@H](O)[C@H]1O 10=20;20,21=21",
"CCCC1(CCC)SC(=O)[N:21]([H:20])C1=O.O=C(/C=C/c1ccoc1)[O-:10]>>CCCC1(CCC)SC(=O)[N-:21]C1=O.O=C(/C=C/c1ccoc1)[O:10][H:20] 10=20;20,21=21",
"C[NH:10]CCc1ccc(O)c(O)c1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[NH+:10](CCc1ccc(O)c(O)c1)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C[N:10](c1ccccc1)C1CCCC1.Cc1o[n+:21]([H:20])c(C)c1C>>C[N+:10](c1ccccc1)(C1CCCC1)[H:20].Cc1o[n:21]c(C)c1C 10=20;20,21=21",
"N[N-:10]C(=O)c1ccccc1.Oc1nc2nc[nH]c2c([O:21][H:20])[nH+]1>>N[N:10](C(=O)c1ccccc1)[H:20].Oc1nc2nc[nH]c2c([O-:21])[nH+]1 10=20;20,21=21",
"CSc1ccc2ccccc2[n:10]1.C[N+:21]1([H:20])[C@@H]2CC[C@H]1C[C@H](OC(=O)C(CO)c1ccccc1)C2>>CSc1ccc2ccccc2[n+:10]1[H:20].C[N:21]1[C@@H]2CC[C@H]1C[C@H](OC(=O)C(CO)c1ccccc1)C2 10=20;20,21=21",
"CC(=O)[C@@H]1C[C@H](C(=O)[O-:10])C1(C)C.O=S(=O)(C(F)(F)F)[N:21](c1ccc(Cl)cc1)[H:20]>>CC(=O)[C@@H]1C[C@H](C(=O)[O:10][H:20])C1(C)C.O=S(=O)(C(F)(F)F)[N-:21]c1ccc(Cl)cc1 10=20;20,21=21",
"COC(=O)C(Cc1ccccc1)[NH2:10].Oc1ccc([O:21][H:20])c2ccccc12>>COC(=O)C(Cc1ccccc1)[NH2+:10][H:20].Oc1ccc([O-:21])c2ccccc12 10=20;20,21=21",
"Cc1cc(O)n(-c2nc([O-])c(C)c(C)[n:10]2)n1.Cc1ccc2[nH]c[n+:21]([H:20])c2c1>>Cc1cc(O)n(-c2nc([O-])c(C)c(C)[n+:10]2[H:20])n1.Cc1ccc2[nH]c[n:21]c2c1 10=20;20,21=21",
"O=C1C(/C=C/c2ccccc2)=C([O:21][H:20])C(=O)c2ccccc21.[O-]c1cc[n:10]c2cccnc12>>O=C1C(/C=C/c2ccccc2)=C([O-:21])C(=O)c2ccccc21.[O-]c1cc[n+:10]([H:20])c2cccnc12 10=20;20,21=21",
"C[NH:10]CCCc1ccccc1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[NH+:10](CCCc1ccccc1)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C=Cc1cc[n:10]cc1.O=C(Cc1ccccc1)C(=O)[O:21][H:20]>>C=Cc1cc[n+:10]([H:20])cc1.O=C(Cc1ccccc1)C(=O)[O-:21] 10=20;20,21=21",
"Cc1cc(N[NH3+])[n+:21]([H:20])c2ccccc12.O=Cc1cc(Br)ccc1[O-:10]>>Cc1cc(N[NH3+])[n:21]c2ccccc12.O=Cc1cc(Br)ccc1[O:10][H:20] 10=20;20,21=21",
"NCCNCC[NH2+:21][H:20].O=S(=O)(c1ccccc1)[N-:10]c1cccc(F)c1>>NCCNCC[NH2:21].O=S(=O)(c1ccccc1)[N:10](c1cccc(F)c1)[H:20] 10=20;20,21=21",
"CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.O=P([O-])([O-])C(c1ccccc1[O-])[NH:10]Cc1cccnc1>>CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.O=P([O-])([O-])C(c1ccccc1[O-])[NH+:10](Cc1cccnc1)[H:20] 10=20;20,21=21",
"C[NH:10]CCC(N)=NO.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[NH+:10](CCC(N)=NO)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Cc1ccc(N[N+:21](=C(C#N)C#N)[H:20])c([N+](=O)[O-])c1.O=C([O-])CCc1c[nH]c[n:10]1>>Cc1ccc(N[N:21]=C(C#N)C#N)c([N+](=O)[O-])c1.O=C([O-])CCc1c[nH]c[n+:10]1[H:20] 10=20;20,21=21",
"COc1ccc(OC)c2c1n(C)c(CO)[n:10]2.Cc1cc([N+](=O)[O-])c(C(C)C)cc1[O:21][H:20]>>COc1ccc(OC)c2c1n(C)c(CO)[n+:10]2[H:20].Cc1cc([N+](=O)[O-])c(C(C)C)cc1[O-:21] 10=20;20,21=21",
"Cc1cc(Cc2cc(O)ccc2C)c([O-:10])c([N+](=O)[O-])c1.c1ccc(CO[n+]2ccc([O:21][H:20])cc2)cc1>>Cc1cc(Cc2cc(O)ccc2C)c([O:10][H:20])c([N+](=O)[O-])c1.c1ccc(CO[n+]2ccc([O-:21])cc2)cc1 10=20;20,21=21",
"CC(=O)[C@@H]1C[C@@H]1C(=O)[O-:10].c1ccc2c([NH2+:21][H:20])cccc2c1>>CC(=O)[C@@H]1C[C@@H]1C(=O)[O:10][H:20].c1ccc2c([NH2:21])cccc2c1 10=20;20,21=21",
"CN(C)P(N(C)C)(N(C)C)=[O+:21][H:20].N#Cc1cccc(C(=O)[O-:10])c1>>CN(C)P(N(C)C)(N(C)C)=[O:21].N#Cc1cccc(C(=O)[O:10][H:20])c1 10=20;20,21=21",
"CC(C)[NH+:21](CCC#N)[H:20].O=C1C(c2ccccc2)=C([O-:10])C(=O)c2ccccc21>>CC(C)[NH:21]CCC#N.O=C1C(c2ccccc2)=C([O:10][H:20])C(=O)c2ccccc21 10=20;20,21=21",
"CC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(C#N)C=C2)[H:20])C=C1>>CC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(C#N)C=C2)C=C1 10=20;20,21=21",
"CN(C)C=[N+:21](c1ccc([N+](=O)[O-])cc1)[H:20].O=C([O-])[C@H]1O[C@@H]1C(=O)[O-:10]>>CN(C)C=[N:21]c1ccc([N+](=O)[O-])cc1.O=C([O-])[C@H]1O[C@@H]1C(=O)[O:10][H:20] 10=20;20,21=21",
